US08022223B2
Preparation of 5-(2-chlorophenylthio)-6-(4-methylthiazol-2-ylamino)pyridin-3-ol
A degassed mixture of N-(5-bromo-3-(2-chlorophenylthio)pyridin-2-yl)-4-methylthiazol-2-amine (1.10 g, 2.66 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.35 g, 5.32 mmol), Pd(OAc)2 (60 mg, 0.27 mmol), tricyclopentylphosphine (93 mg. 0.40 mmol) and cesium fluoride (3.64 g, 23.9 mmol) in acetonitrile is heated at 90° C. for 5 hours. The reaction mixture is cooled and partitioned between ether and water. The crude product is dissolved in THF. N-morpholine N-oxide (1.40 g, 12.0 mmol) is added and the reaction mixture is heated at reflux for 12 hours. The reaction mixture is cooled and partitioned between ether and water. The organic layer is washed with water and brine, dried and concentrated. The residue is purified by silica gel chromatography, eluting with 10-20% EtOAc in hexanes to afford the title compound.

reactant | N-(5-bromo-3-(2-chlorophenylthio)pyridin-2-yl)-4-methylthiazol-2-amine | 2.66 mmol, 1.10 g | BrC=1C=C(C(=NC1)NC=1SC=C(N1)C)SC1=C(C=CC=C1)Cl | C15H11BrClN3S2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 5.32 mmol, 1.35 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | tricyclopentylphosphine | 0.40 mmol, 93 mg | C1(CCCC1)P(C1CCCC1)C1CCCC1 | C15H27P
reactant | cesium fluoride | 23.9 mmol, 3.64 g | [F-].[Cs+]
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | Pd(OAc)2 | 0.27 mmol, 60 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-(2-chlorophenylthio)-6-(4-methylthiazol-2-ylamino)pyridin-3-ol | ClC1=C(C=CC=C1)SC=1C=C(C=NC1NC=1SC=C(N1)C)O | C15H12ClN3OS2
